US05824691
The solution of methyl 3-(2-formylpyrrol-1-yl)benzoate (1.0 g) and benzyl (triphenylphosphoranylidene)acetate (1.8 g) in tetrahydrofuran (10 ml) were heated under reflux for 30 hours. After evaporating the solvent, the residue was purified by column chromatography on silica gel eluting with toluene. The fractions containing the desired product were collected and evaporated in vacuo to give methyl 3-[2-((E)-2-benzyloxycarbonylethenyl)pyrrol-1-yl)benzoate (0.77 g) as an oil.

reactant | methyl 3-(2-formylpyrrol-1-yl)benzoate | 1.0 g | C(=O)C=1N(C=CC1)C=1C=C(C(=O)OC)C=CC1 | C13H11NO3
reactant | benzyl (triphenylphosphoranylidene)acetate | 1.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OCC1=CC=CC=C1 | C27H23O2P
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | methyl 3-[2-((E)-2-benzyloxycarbonylethenyl)pyrrol-1-yl)benzoate | 0.77 g | C(C1=CC=CC=C1)OC(=O)/C=C/C=1N(C=CC1)C=1C=C(C(=O)OC)C=CC1 | C22H19NO4
